US04460580
A mixture of 84.3 g of 2,3-dihydro-2,2-dimethyl-6-hydroxy-4H-1,3-benzoxazin-4-one, 144.2 g of methanesulfonic acid-(2-methyl-2-nitropropyl)-ester and 121 g of anhydrous potassium carbonate in 440 ml of diethylene glycol dimethyl ether is stirred for 9 hours in a bath at about 150°. The reaction mixture is cooled, poured into 4000 ml of water, and extracted with 3000 ml of ethyl acetate. The oil, obtained by concentrating the organic phase by evaporation, is dissolved in 250 ml of dioxane, and about 750 ml of 2N hydrochloric acid is added until an acid reaction occurs. The solution is held for 11/2 hours at 80°-100°; it is then concentrated under reduced pressure to half its volume, and extracted three times with 500 ml of ethyl acetate each time. The combined organic phases are washed with 200 ml of water, then with saturated sodium bicarbonate solution, and finally with saturated sodium chloride solution; they are subsequently dried over magnesium sulfate and concentrated by evaporation. The dark brown oil thus obtained is chromatographed on 500 g of silica gel. Elution with ether yields crystalline 5-(2-methyl-2-nitropropoxy)-salicylamide, m.p. 145°-148°.

reactant | 2,3-dihydro-2,2-dimethyl-6-hydroxy-4H-1,3-benzoxazin-4-one | 84.3 g | CC1(OC2=C(C(N1)=O)C=C(C=C2)O)C | C10H11NO3
reactant | methanesulfonic acid-(2-methyl-2-nitropropyl)-ester | 144.2 g | CC(COS(=O)(=O)C)(C)[N+](=O)[O-] | C5H11NO5S
reactant | potassium carbonate | 121 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | 4000 ml | O | H2O
solvent | diethylene glycol dimethyl ether | 440 ml | COCCOCCOC | C6H14O3
product | 5-(2-methyl-2-nitropropoxy)-salicylamide | CC(COC1=CC=C(C(C(=O)N)=C1)O)(C)[N+](=O)[O-] | C11H14N2O5
